US08461134B2
2-(5-Amino-2-(N-(1-hydroxy-1,3-dihydrobenzo[c][1,2]oxaborol-6-yl)sulfamoyl)phenyl)-N-methylacetamide
To a stirred solution of 2-(5-amino-2-(N-(1-hydroxy-1,3-dihydrobenzo[c][1,2]oxaborol-6-yl)sulfamoyl)phenyl)acetic acid (860 mg, 2.37 mmol) and methylamine hydrochloride salt (0.34 g, 4.75 mmol) in 10 mL of DMF was added PyBOP (1300 mg, 2.49 mmol) and TEA (1.13 mL, 8.3 mmol). The reaction mixture was stirred for 16 hours. After water was added, the reaction mixture was extracted with ethyl acetate and washed with water, 1N HCl and brine. The organic layer was dried over Na2SO4 and concentrated. The crude residue was purified by prep HPLC (SunFire Prep C18 OBD 5 uM 30×50 mm column) to give the desired product as an offwhite powder (165 mg, yield 19%). MS calcd for (C16H18BN3O5S): 375.1. MS found (ESI negative): (M−H)−=374.1. 1H NMR (400 MHz, DMSO-d6) δ (ppm): 9.87 (s, 1H), 9.17 (bs, 1H), 7.93 (d, J=4.8 Hz, 1H), 7.41 (m, 2H), 7.22 (d, J=8 Hz, 1H), 7.11 (dd, J=8, 2 Hz, 1H), 6.45 (d, J=2.4 Hz, 1H)), 6.35 (d, J=8.8, 2 Hz, 1H), 4.87 (s, 2H), 3.77 (s, 2H), 2.63 (d, J=4.4 Hz, 3H).

reactant | 2-(5-amino-2-(N-(1-hydroxy-1,3-dihydrobenzo[c][1,2]oxaborol-6-yl)sulfamoyl)phenyl)acetic acid | 2.37 mmol, 860 mg | NC=1C=CC(=C(C1)CC(=O)O)S(NC=1C=CC2=C(B(OC2)O)C1)(=O)=O | C15H15BN2O6S
reactant | methylamine hydrochloride salt | 4.75 mmol, 0.34 g | Cl.CN
reactant | PyBOP | 2.49 mmol, 1300 mg | C1CCN(C1)[P+](N2CCCC2)(N3CCCC3)ON4C5=C(C=CC=C5)N=N4.F[P-](F)(F)(F)(F)F
reactant | water | O | H2O
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 2-(5-Amino-2-(N-(1-hydroxy-1,3-dihydrobenzo[c][1,2]oxaborol-6-yl)sulfamoyl)phenyl)-N-methylacetamide | NC=1C=CC(=C(C1)CC(=O)NC)S(NC=1C=CC2=C(B(OC2)O)C1)(=O)=O | C16H18BN3O5S
